US06166040
3,3-Dimethyl-1-{2-[4-(7-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-1,3-dihydro-2H-indol-2-one
4-(7-Fluoroindol-3-yl)-1,2,5,6-tetrahydropyridine (2.0 g, 9.26 mmols), 3,3-dimethyl-1-(2-methanesulfonyloxy-1-ethyl)-1,3-dihydro-2H-indol-2-one (2.623 g, 9.26 mmols), sodium carbonate (2.947 g,27.8 mmols),water (20 mls) combined and heated to 90 deg C. for 3 hours. Extracted into ethyl acetate (2×50 ml). Dried (MgSO4),filtered and concentrated in vacuo. The resultant solid was recrystallised from ethyl acetate and then converted to the hydrochloride salt (0.85 g).m.p 235-236 deg. C.

reactant | 4-(7-Fluoroindol-3-yl)-1,2,5,6-tetrahydropyridine | 9.26 mmols, 2.0 g | FC=1C=CC=C2C(=CNC12)C1=CCNCC1 | C13H13FN2
reactant | 3,3-dimethyl-1-(2-methanesulfonyloxy-1-ethyl)-1,3-dihydro-2H-indol-2-one | 9.26 mmols, 2.623 g | CC1(C(N(C2=CC=CC=C12)CCOS(=O)(=O)C)=O)C | C13H17NO4S
reactant | sodium carbonate | 27.8 mmols, 2.947 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 mls | O | H2O
product | 3,3-Dimethyl-1-{2-[4-(7-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-1,3-dihydro-2H-indol-2-one | CC1(C(N(C2=CC=CC=C12)CCN1CC=C(CC1)C1=CNC2=C(C=CC=C12)F)=O)C | C25H26FN3O
